US07763731B2
N-[4-(5-Hydroxy-4-methyl-2-nitro-phenylsulfanyl)-phenyl]-acetamide
A mixture of 2-Methyl-4-nitro-5-chloro phenol (1.5 g, 8.0 mmol), 4-Acetamido thiophenol (1.6 g, 8.8 mmol) and cesium carbonate (5.74 g, 17.6 mmol) in DMF (10 mL) was heated 2.5 h at 100° C. The mixture was cooled, diluted with ethyl acetate (100 mL) and the organic layer washed with water and aqueous 10% sodium chloride solution, then, dried over anhydrous sodium sulfate. The drying agent was filtered and the solvent removed under vacuum leaving the title compound as a solid (2.5 g, 81%).

reactant | 2-Methyl-4-nitro-5-chloro phenol | 8.0 mmol, 1.5 g | CC1=C(C=C(C(=C1)[N+](=O)[O-])Cl)O | C7H6ClNO3
reactant | 4-Acetamido thiophenol | 8.8 mmol, 1.6 g | C(C)(=O)NC1=CC=C(C=C1)S | C8H9NOS
reactant | cesium carbonate | 17.6 mmol, 5.74 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | N-[4-(5-Hydroxy-4-methyl-2-nitro-phenylsulfanyl)-phenyl]-acetamide | 2.5 g, 81% | OC=1C(=CC(=C(C1)SC1=CC=C(C=C1)NC(C)=O)[N+](=O)[O-])C | C15H14N2O4S
